US06924289B2
1-(3,4-Difluorophenyl)-3-[2-(4-methylpiperazin-1-yl)-benzyl]-pyrrolidin-2-one
A mixture of 1-(3,4-difluorophenyl)-3-[2-(4-methylpiperazin-1-yl)-benzylidene]-pyrrolidin-2-one (125 mg, 0.326 mmol), ammonium formate (411 mg, 6.53 mmol) and 10% palladium on carbon (40 mg) in 30 mL of anhydrous methanol was refluxed under nitrogen for 18 hours. After cooling, the catalyst was removed In vacuo and the residue was treated with saturated aqueous sodium bicarbonate and methylene chloride. The organic layer was removed, combined with a second extraction of the aqueous layer with additional methylene chloride, washed with saturated aqueous sodium chloride (NaCl) and dried. The solvent was again removed In vacuo to give the crude product as a white solid (111 mg). This solid was dissolved in hot ethyl acetate and crystallized by the addition of a few drops of hexanes. The title product, 29 mg, has m.p. 130-131° C. From the filtrate a second crop of product was also obtained as above, 50 mg, mp. 130-131° C.

reactant | 1-(3,4-difluorophenyl)-3-[2-(4-methylpiperazin-1-yl)-benzylidene]-pyrrolidin-2-one | 0.326 mmol, 125 mg | FC=1C=C(C=CC1F)N1C(C(CC1)=CC1=C(C=CC=C1)N1CCN(CC1)C)=O | C22H23F2N3O
reactant | ammonium formate | 6.53 mmol, 411 mg | C(=O)[O-].[NH4+]
catalyst | palladium on carbon | 40 mg | [Pd] | Pd
solvent | methanol | 30 mL | CO | CH4O
product | 1-(3,4-Difluorophenyl)-3-[2-(4-methylpiperazin-1-yl)-benzyl]-pyrrolidin-2-one | 111 mg | FC=1C=C(C=CC1F)N1C(C(CC1)CC1=C(C=CC=C1)N1CCN(CC1)C)=O | C22H25F2N3O
